US07211572B2
The crude crystals (1.0 g) of tert-butyl [1-(3,4-dichlorobenzylcarbamoyl)-1-methylethyl]carbamate obtained in the previous step was dissolved in tetrahydrofuran (5 ml) and cooled to 0° C. under an argon atmosphere. A borane-tetrahydrofuran complex (1.0 M/tetrahydrofuran solution) (15 ml) was added dropwise at the same temperature, removed from an ice-bath and stirred at room temperature for 2 hr. A borane-tetrahydrofuran complex (1.0 M/tetrahydrofuran solution) (5 ml) was added every 30 minutes twice in total. To the obtained reaction mixture was added methanol (10 ml) under ice-cooling, and the solvent was evaporated. The obtained residue was dissolved in tetrahydrofuran (10 ml) and 1N aqueous sodium hydroxide solution (4 ml) and the mixture was stirred at 90° C. for 1 hr. The obtained reaction mixture was extracted twice with toluene, and the combined organic layer was washed with saturated brine and dried over sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica-gel column chromatography (hexane:ethyl acetate=l:l) to give tert-butyl[2-(3,4-dichlorobenzylamino)-1,1-dimethylethyl]carbamate (290 mg).

reactant | tert-butyl [1-(3,4-dichlorobenzylcarbamoyl)-1-methylethyl]carbamate | ClC=1C=C(CNC(=O)C(C)(C)NC(OC(C)(C)C)=O)C=CC1Cl | C16H22Cl2N2O3
reactant | borane tetrahydrofuran | 1.0 M, 15 ml | B.O1CCCC1
reactant | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-butyl[2-(3,4-dichlorobenzylamino)-1,1-dimethylethyl]carbamate | 290 mg | C(C)(C)(C)OC(NC(CNCC1=CC(=C(C=C1)Cl)Cl)(C)C)=O | C16H24Cl2N2O2
